* HSPICE netlist generated with ICnet by 'bd68' on Sun Feb 27 2022 at 16:55:15

.subckt NAND2_DYN  CLK A B Y X

*
* Globals.
*
.global GND VDD

        MN3 N_12_ESC1 CLK GND GND n L=2u W=12u
        MN2 N_10_ESC2 B N_12_ESC1 GND n L=2u W=12u
        MN1 X A N_10_ESC2 GND n L=2u W=12u
        MP3 X Y N_5_ESC3 VDD p L=2u W=4u
        MP2 N_5_ESC3 GND VDD VDD p L=4u W=4u
        MP1 X CLK VDD VDD p L=2u W=4u
.ends NAND2_DYN

